// Mismatch model of NMOS and PMOS for Spectre
//   w, l, m    ... MOS parameters
//   vtmm, u0mm ... normalized mismatch (+1 means +1 sigma)

simulator lang=spectre

subckt submodn (drain gate source bulk) 
parameters w l vtmm=0 u0mm=0
// m=1 not needed (built in into spectre)
parameters sqrtarea=sqrt(w*l*m)
parameters vvt=vtmm*(5e-3*1e-6/sqrtarea/sqrt(2))
parameters vu0r=u0mm*(1.04e-2*1e-6/sqrtarea/sqrt(2))
vgmm (gate gate_int) vsource dc=vvt type=dc
m0 (drain gate_int source bulk) nmosmod w=w*(1+vu0r) l=l m=m 
+ ad=w*0.18u as=w*0.18u pd=2*(w+0.18u) ps=2*(w+0.18u) nrs=0.18u/w nrd=0.18u/w
ends submodn

subckt submodp (drain gate source bulk)
parameters w l vtmm=0 u0mm=0
// m=1 not needed (built in into spectre)
parameters sqrtarea=sqrt(w*l*m)
parameters vvt=vtmm*(5.49e-3*1e-6/sqrtarea/sqrt(2))
parameters vu0r=u0mm*(0.99e-2*1e-6/sqrtarea/sqrt(2))
vgmm (gate gate_int) vsource dc=vvt type=dc
m0 (drain gate_int source bulk) pmosmod w=w*(1+vu0r) l=l m=m 
+ ad=w*0.18u as=w*0.18u pd=2*(w+0.18u) ps=2*(w+0.18u) nrs=0.18u/w nrd=0.18u/w
ends submodp
